US08609644B2
Using the same reaction conditions described in Prepn. 31 and starting from 3,3:17,17-bis(ethylendioxy)androstane-7-one (Prepn. 42, 353 mg), 3,3:17,17-bis(ethylendioxy)-7-difluoromethyleneandrostane was obtained after flash chromatography (SiO2; cyclohexane:CH2Cl2:acetone 8:1:1) (115 mg, 30%). 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 3.85 (8H, m), 2.10-0.9 (20H, m), 0.96 (3H, s), 0.83 (3H, s).

reactant | 17,17-bis(ethylendioxy)-7-difluoromethyleneandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C(CC3CCCC[C@]3(C)[C@H]1CC4)=C(F)F | C24H34F2O4
reactant | cyclohexane CH2Cl2 acetone | C1CCCCC1.C(Cl)Cl.CC(=O)C
product | 17,17-bis(ethylendioxy)androstane-7-one | 353 mg | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C(CC3CCCC[C@]3(C)[C@H]1CC4)=O | C23H34O5
